US04287201
To a suspension of sodium hydride (57% oil emulsion, 1.11 g) in dimethylformamide (30 ml) is added in small portions 2.48 ml (2.64 g, 24 mmoles) of thiophenol. The mixture is cooled in an ice bath while a solution of 5-bromo-2-nitrotoluene (4.32 g, 20 mmoles) in dimethylformamide (10 ml) is added dropwise. The mixture is stirred for an additional 30 minutes and then poured into ice water (200 ml). The partially crystalline product is extracted with dichloromethane and the combined extracts are washed with water and dried. The solvents are evaporated under high vacuum to remove DMF and the residue is covered with hexane. The resultant crystals are broken up and filtered to give pure product, 2-nitro-5-phenylthiotoluene, 3.78 g, m.p. 69°-75°.

reactant | sodium hydride | 1.11 g | [H-].[Na+]
reactant | thiophenol | 24 mmoles, 2.48 ml, 2.64 g | C1(=CC=CC=C1)S | C6H6S
reactant | 5-bromo-2-nitrotoluene | 20 mmoles, 4.32 g | BrC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6BrNO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-nitro-5-phenylthiotoluene | [N+](=O)([O-])C1=C(C=C(C=C1)SC1=CC=CC=C1)C | C13H11NO2S
